US07179830B2
b) 2-(2,6-Dichlorophenylamino)-1H-thieno[3,4-d]imidazole hydrochloride
2.5 g of methyl iodide were added to a suspension of 0.951 g of N-(3-amino-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea in 40 ml of anhydrous ethanol and the mixture was boiled on a reflux condenser for 6 hours. After the solvent had been distilled off on a Rotavapor, the residue was admixed with water, made alkaline using an aqueous saturated sodium hydrogencarbonate solution and extracted repeatedly with ethyl acetate. The combined organic phases were dried over sodium sulfate and treated with activated carbon, and the solvent was distilled off on a Rotavapor. The residue was then purified by column chromatography on silica gel using a mixture of 10 parts by volume of dichloromethane and 1 part by volume of methanol. After the solvent had been distilled off, a brown oily-amorphous product was obtained. It was dissolved in a little ethyl acetate, made strongly acidic using a hydrogen chloride gas-saturated ether solution, and, after adding a little acetone, boiled until complete crystallization. M.p. >300° C.

reactant | methyl iodide | 2.5 g | CI | CH3I
reactant | N-(3-amino-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea | 0.951 g | NC1=CSC=C1NC(=S)NC1=C(C=CC=C1Cl)Cl | C11H9Cl2N3S2
reactant | hydrogen chloride | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-Dichlorophenylamino)-1H-thieno[3,4-d]imidazole hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC1=NC=2C(N1)=CSC2 | InChI=1S/C11H7Cl2N3S.ClH/c12-6-2-1-3-7(13)10(6)16-11-14-8-4-17-5-9(8)15-11;/h1-5H,(H2,14,15,16);1H
